US05877174
In 50 ml of dimethyl sulfoxide was dissolved 10 g of 4-cyanophenol, followed by adding thereto 23 g of potassium carbonate at room temperature. The resulting mixture was stirred at the same temperature for 5 minutes and then 64 ml of 1,3-dibromopropane was added thereto, followed by stirring at room temperature for 12 hours. Subsequently, the reaction mixture was added to a mixed solvent of 200 ml of ethyl acetate and 100 ml of water, after which the organic layer was separated and the aqueous layer was extracted with 50 ml of ethyl acetate. The combined organic layer was washed successively with a 1N aqueous sodium hydroxide solution, water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent; hexane: ethyl acetate=5:1) to obtain 5.1 g of 1-bromo-3-(4-cyanophenoxy)-propane as a colorless oil.

reactant | 4-cyanophenol | 10 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | potassium carbonate | 23 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | 64 ml | BrCCCBr | C3H6Br2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
product | 1-bromo-3-(4-cyanophenoxy)-propane | 5.1 g | BrCCCOC1=CC=C(C=C1)C#N | C10H10BrNO
